US06716851B2
4-(3-Methoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (100 mg, 0.385 mmol) and m-anisidine (43 μl, 0.385 mmol) similar to Example 13 and isolated as a pale yellow solid (38 mg, 29%). 1H NMR (Acetone-d6): 9.61 (d, J=2.4 Hz, 1H), 9.42 (s, 1H), 8.76-8.70 (m, 2H), 7.57-7.53 (m, 2H), 7.39 (s, 1H), 7.36 (s, 1H), 7.15 (s, 1H), 6.79-6.75 (m, 1H), 3.87 (s, 3H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.385 mmol, 100 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | m-anisidine | 0.385 mmol, 43 μl | COC1=CC(=CC=C1)N | C7H9NO
product | 4-(3-Methoxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | COC=1C=C(NC2=NC(=NC(=C2)C(F)(F)F)C=2C=NC=CC2)C=CC1 | C17H13F3N4O
